US05157124
Cyanogen bromide (6.0 g, 0.057 mol) was added to a stirred solution of 1-[4-(diethylamino)-2-butynyl]-1,3-dihydro-3-methyl-2H-imidazol-2-one in dioxane (130 mL). After evaporation of the dioxane, the residual oil was chromatographed on silica gel using chloroform: 1% methanol as the eluant to give 10.8 g of 1-(4-bromo-2-butynyl)-1,3-dihydro-3-methyl-2H-imidazol-2-one as an oil.

reactant | Cyanogen bromide | 0.057 mol, 6.0 g | N#CBr | CBrN
reactant | 1-[4-(diethylamino)-2-butynyl]-1,3-dihydro-3-methyl-2H-imidazol-2-one | C(C)N(CC#CCN1C(N(C=C1)C)=O)CC | C12H19N3O
solvent | dioxane | 130 mL | O1CCOCC1 | C4H8O2
product | 1-(4-bromo-2-butynyl)-1,3-dihydro-3-methyl-2H-imidazol-2-one | 10.8 g | BrCC#CCN1C(N(C=C1)C)=O | C8H9BrN2O
